US05167949
2-Ethoxymethyl-7-hydroxy-4(3H)-pteridinone
Obtained using the procedure described in Example 1, starting with 2.1 g (0.0136 mole) of 3-amino-5-hydroxy-2-pyrazinecarboxamide [prepared according to E. C. Taylor et al., J. Org. Chem. 1975, 40, 2341], 14.0 g (0.068 mole) of triethyl orthoethoxyacetate and 14.0 ml of acetic anhydride. Yld: 1.2 g (40%), m.p. 255°-256° C. (methanol/N,N-dimethylformamide).

reactant | 3-amino-5-hydroxy-2-pyrazinecarboxamide | 0.0136 mole, 2.1 g | NC=1C(=NC=C(N1)O)C(=O)N | C5H6N4O2
reactant | acetic anhydride | 14.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol N,N-dimethylformamide | CO.CN(C=O)C
product | 2-Ethoxymethyl-7-hydroxy-4(3H)-pteridinone | C(C)OCC1=NC2=NC(=CN=C2C(N1)=O)O | C9H10N4O3
